US07265246B2
Cool a solution of 5-methylthiophene-2-carbaldehyde (1 g, 7.9 mmol, 1 eq) and nitromethane (484 mg, 7.9 mmol, 1 eq) in methanol (3 mL) to 10° C. Add sodium hydroxide (332 mg, 8.3 mmol, 1.05 eq) as an aqueous solution (1.5 mL) to the reaction mixture. Stir reaction for 15 minutes and add ice water. Add this mixture to an aqueous HCl solution (1.67 mL concentrated HCl in 2.4 mL water) and stir overnight. Extract product with ethyl acetate, separate organics, dry with magnesium sulfate, and concentrate on rotovap to give 2-methyl-5-(2-nitrovinyl)thiophene (966 mg, 72% yield) as a crude solid.

reactant | 5-methylthiophene-2-carbaldehyde | 7.9 mmol, 1 g, 1 eq | CC1=CC=C(S1)C=O | C6H6OS
reactant | nitromethane | 7.9 mmol, 484 mg, 1 eq | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | 8.3 mmol, 332 mg, 1.05 eq | [OH-].[Na+]
reactant | HCl | 1.67 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 2-methyl-5-(2-nitrovinyl)thiophene | 966 mg, 72% yield | CC=1SC(=CC1)C=C[N+](=O)[O-] | C7H7NO2S
